US07994163B2
N-Benzyl-6-mercapto-nicotinamide
Combine 6-mercapto-nicotinic acid (0.64 g, 4.1 mmol), benzylamine (0.45 mL, 4.1 mmol) and EEDQ (1 g, 4 mmol) in anhydrous DMF (3 mL). Stir at room temperature for 12 h. Dilute the reaction with water and extract with DCM. Dry over MgSO4, filter and concentrate in vacuo to give a yellow solid. Purify by chromatography on silica gel eluting with 2M ammonia in methanol/DCM (2:98 and 10:90) to give the title compound as a yellow solid (440 mg, 44%). MS (ES+) m/z: 245 (M+H)+.

reactant | 6-mercapto-nicotinic acid | 4.1 mmol, 0.64 g | SC1=NC=C(C(=O)O)C=C1 | C6H5NO2S
reactant | benzylamine | 4.1 mmol, 0.45 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | EEDQ | 4 mmol, 1 g | CCOC1C=CC2=CC=CC=C2N1C(=O)OCC | C14H17NO3
reactant | water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-Benzyl-6-mercapto-nicotinamide | 440 mg, 44% | C(C1=CC=CC=C1)NC(C1=CN=C(C=C1)S)=O | C13H12N2OS
